US05422038
In a four-necked flask equipped with a thermometer and stirrer, were placed 15.1 g (0.08 mole) of the compound (XII-1) obtained in Preparation Example 1, 50 ml of toluene and 20 ml of pyridine, thereafter 10.2 g (0.1 mole) of acetic anhydride and 0.1 g of 4-dimethylaminopyridine was added thereto, and the resulting mixture was stirred at 40°-50° C. for 4 hours. After completion of the reaction, the reaction mixture was poured into 50 ml of 4N hydrochloric acid to conduct extraction and layer separation. The organic layer obtained was washed successively with 1N hydrochloric acid, water, 5% aqueous sodium bicarbonate solution and water. The organic layer was then concentrated under reduced pressure to obtain 18.2 g of 2-(2-acetoxypropyl)naphthalene (XIII-1). Yield: 99 0%, nD20 1,5413

reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | acetic anhydride | 0.1 mole, 10.2 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 4N, 50 ml | Cl | ClH
catalyst | 4-dimethylaminopyridine | 0.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2-acetoxypropyl)naphthalene | 18.2 g | C(C)(=O)OC(CC1=CC2=CC=CC=C2C=C1)C | C15H16O2
